US07947851B2
Step d) Formation of 6-[{4-[(4-butylphenyl)ethynyl]benzyl}(hexyl)amino]-2,2-dimethyl-4H-1,3-benzodioxin-4-one
To a solution of 6-({4-[(4-butylphenyl)ethynyl]benzyl}amino)-2,2-dimethyl-4H-1,3-benzodioxin-4-one (4.00 g, 9.1 mmol) in anhydrous DCE (60 mL) were added hexanal (Aldrich, 1.80 mL, 14.6 mmol) and sodium triacetoxyborohydride (6.17 g, 29.1 mmol). The resulting mixture was stirred at 70° C. overnight. Then the reaction mixture was poured into water (60 mL) and extracted with DCM (2×60 mL). The combined organic layers were dried over MgSO4 and the solvents were removed under reduced pressure to give a yellow oil. Purification by flash chromatography on silicagel (c-Hex/EtOAc (9/1)) gave 4.41 g (92%) of the title compound as a yellow oil. HPLC, Rt: 6.2 min (purity: 100%). LC/MS, M+(ESI): 524.1. 1H NMR (CDCl3) δ: 7.48 (d, J=8.3 Hz, 2H), 7.44 (d, J=8.3 Hz, 2H), 7.25 (d, J=3.0 Hz, 1H), 7.20 (d, J=8.3 Hz, 2H), 7.16 (d, J=8.3 Hz, 2H), 6.86 (dd, J=9.0, 3.0 Hz, 1H), 6.79 (d, J=9.0 Hz, 1H), 4.51 (s, 2H), 3.37 (t, J=7.7 Hz, 2H), 2.63 (t, J=7.7 Hz, 2H), 1.71 (s, 6H), 1.61 (m, 4H), 1.40-1.25 (m, 8H), 0.94 (t, J=7.3 Hz, 3H), 0.90 (t, J=6.7 Hz, 3H).

reactant | 6-({4-[(4-butylphenyl)ethynyl]benzyl}amino)-2,2-dimethyl-4H-1,3-benzodioxin-4-one | 9.1 mmol, 4.00 g | C(CCC)C1=CC=C(C=C1)C#CC1=CC=C(CNC2=CC3=C(OC(OC3=O)(C)C)C=C2)C=C1 | C29H29NO3
reactant | hexanal | 14.6 mmol, 1.80 mL | C(CCCCC)=O | C6H12O
reactant | sodium triacetoxyborohydride | 29.1 mmol, 6.17 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | water | 60 mL | O | H2O
solvent | DCE | 60 mL | ClCCCl | C2H4Cl2
product | 6-[{4-[(4-butylphenyl)ethynyl]benzyl}(hexyl)amino]-2,2-dimethyl-4H-1,3-benzodioxin-4-one | 4.41 g, 92% | C(CCC)C1=CC=C(C=C1)C#CC1=CC=C(CN(C2=CC3=C(OC(OC3=O)(C)C)C=C2)CCCCCC)C=C1 | C35H41NO3
